US06861424B2
To a suspension of 7-methyl-4-hydroxy-2-carboxyquinoline (0.81 g, 4 mmol) in methylene chloride: DMF (4:1, 25 mL) was added 1-hydoxybenzotriazole (HOBT) (0.64 g, 4.8 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDCI) (1.09 g, 4.8 mmol) and the reaction mixture was stirred for 10 minutes. A solution of 4-ethoxycarbonyl-1-(1-amino-3-(1,1-dimethylethoxycarbonyl)propyl)carbonylpiperazine (1.37 g, 4 mmol) in methylene chloride (10 mL) was added to the reaction mixture and the resulting mixture was stirred at ambient temperature for 6 hours. The solvent was evaporated in vacuo and the resulting residue was partitioned in ethyl acetate and water. The organic layers were combined and washed with water, brine and concentrated to afford an off-white foam, 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-hydroxyquinoline; (1.44 g, 68%).

reactant | 7-methyl-4-hydroxy-2-carboxyquinoline | 4 mmol, 0.81 g | CC1=CC=C2C(=CC(=NC2=C1)C(=O)O)O | C11H9NO3
reactant | 1-hydoxybenzotriazole | 4.8 mmol, 0.64 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 4.8 mmol, 1.09 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 4-ethoxycarbonyl-1-(1-amino-3-(1,1-dimethylethoxycarbonyl)propyl)carbonylpiperazine | 4 mmol, 1.37 g | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC(C)(C)C)N | C16H29N3O5
solvent | methylene chloride DMF | 25 mL | C(Cl)Cl.CN(C)C=O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-hydroxyquinoline | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)O | C26H34N4O7
